US06713474B2
1H NMR (DMSO-d6, 400 MHz) 8.62(s, 1H), 8.16(s, 1H), 4.66-4.58(m, 1H), 3.17(s, 1H), 3.02-3.00(d, 2H, J=8 Hz), 2.84-2.82 (d, 2H, J=8 Hz), 2.33-2.26(m, 2H), 2.17 (s, 3H), 2.08-2.04(m, 2H), 1.95-1.85 (m, 4H), 1.91-1.88(d, 2H, J=12 Hz), 1.49-1.45(m, 2H); Waters 2690 Alliance HPLC (Symmetry Shield RP18 3.5 μm, 2.1×50 mm; 5%-95% acetonitrile-0.1 M ammonium acetate over 15 min, 0.5 mL/min) Rt 3.505 min. 4-chloro-5-(4-phenoxyphenyl)-7-1-(1-methyl-4-piperidinyl)-4-piperidinyl]-7H-pyrrolo[2,3-d]pyrimidine A mixture of 4-chloro-5-iodo-7-[ 1-(1-methyl-4-piperidinyl)-4-piperidinyl]-7H-pyrrolo[2,3-d]pyrimidine (0.390 g, 0.845 mmol), 4-phenoxyphenyl boronic acid (0.199 g, 0.93 mmol), tetrakis(triphenylphosphine)pallidium (0.058 g, 0.051 mmol), and sodium carbonate (0.215 g, 2.03 mmol) were heated in a mixture of ethylene glycol dimethyl ether (20 mL) and water (10 mL) at 80° C. for 7 hours under a nitrogen atmosphere. Reaction solution was allowed to cool to room temperature, and the organic layer was removed under reduced pressure. Ethyl acetate was added, the layers were partitioned and the aqueous layer was extracted with ethyl acetate (250 mL). The organic layers were combined, washed with water and brine, dried over magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography on silica using 10% methanol in dichloromethane, then 20% methanol in dichloromethane as eluent to give 0.241 g (51%) of 4-chloro-5-(4-phenoxyphenyl)-7-[1-(1-methyl-4-piperidinyl)-4-piperidinyl]-7H-pyrrolo[2,3-d]pyrimidine.

reactant | 7H-pyrrolo[2,3-d]pyrimidine | N1=CN=CC2=C1NC=C2 | C6H5N3
reactant | 4-chloro-5-iodo-7-[ 1-(1-methyl-4-piperidinyl)-4-piperidinyl]-7H-pyrrolo[2,3-d]pyrimidine | 0.845 mmol, 0.390 g | ClC=1C2=C(N=CN1)N(C=C2I)C2CCN(CC2)C2CCN(CC2)C | C17H23ClIN5
reactant | 4-phenoxyphenyl boronic acid | 0.93 mmol, 0.199 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | sodium carbonate | 2.03 mmol, 0.215 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
solvent | acetonitrile | 0.1 M | C(C)#N | C2H3N
product | 4-chloro-5-(4-phenoxyphenyl)-7-[1-(1-methyl-4-piperidinyl)-4-piperidinyl]-7H-pyrrolo[2,3-d]pyrimidine | 0.241 g, 51% | ClC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCN(CC2)C2CCN(CC2)C | C29H32ClN5O
